US06096918
(E)-3-[2(tert-Butyl-dimethyl-silanoxy)-phenyl]-acrylic acid
To a solution of 8.2 g of (E)-3-(2-hydroxy-phenyl)-acrylic acid and 15.2 g of TBDMS-Cl in 10 ml of DMF was added 11.9 g of imidazole and the mixture was stirred at room temperature for 24 h. After aqueous work-up, the bis-silylated product was saponified with 2.1 g of LiOH in THF-H2O for 0.5 h at 0° C. The mixture was concentrated in vacuo and TBDMS-OH removed by extraction with hexane. The aqueous layer was acidified to pH 4 with KHSO4 and extracted with EtOAc. The organic phases were washed with brine, dried (Na2SO4) and evaporated to dryness. The semi-solid residue was suspended in hexane, filtered and the filtrate evaporated to dryness to yield 7.5 g of a pale yellow oil, which solidified upon standing.

reactant | (E)-3-(2-hydroxy-phenyl)-acrylic acid | 8.2 g | OC1=C(C=CC=C1)/C=C/C(=O)O | C9H8O3
reactant | TBDMS-Cl | 15.2 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 11.9 g | N1C=NC=C1 | C3H4N2
reactant | LiOH | 2.1 g | [Li+].[OH-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | THF H2O | C1CCOC1.O
product | (E)-3-[2(tert-Butyl-dimethyl-silanoxy)-phenyl]-acrylic acid | 7.5 g | C(C)(C)(C)[Si](OC1=C(C=CC=C1)/C=C/C(=O)O)(C)C | C15H22O3Si
